US04027027
A solution of 17.3 g of 1-[N-benzyl-N-[2-(5-carbamoyl-2-pyridyloxy)-ethyl]-amino]-3-(2-methoxy-phenoxy)-2-propanol in 180 ml of ethanol is hydrogenated analogously to Example 1, giving 1-[2-(5-carbamoyl-2-pyridyloxy)-ethylamino]-3-(2-methoxy-phenoxy)-2-propanol, which melts at 132°-133° C. after crystallisation from ethanol. It forms a neutral fumarate as a hemihydrate which melts at 98°-105° C. after crystallisation from methanol.

reactant | 1-[N-benzyl-N-[2-(5-carbamoyl-2-pyridyloxy)-ethyl]-amino]-3-(2-methoxy-phenoxy)-2-propanol | 17.3 g | C(C1=CC=CC=C1)N(CCOC1=NC=C(C=C1)C(N)=O)CC(COC1=C(C=CC=C1)OC)O | C25H29N3O5
solvent | ethanol | 180 ml | C(C)O | C2H6O
product | 1-[2-(5-carbamoyl-2-pyridyloxy)-ethylamino]-3-(2-methoxy-phenoxy)-2-propanol | C(N)(=O)C=1C=CC(=NC1)OCCNCC(COC1=C(C=CC=C1)OC)O | C18H23N3O5
